US06093710
To a solution of 1-n-butyl-2,3-dihydro-6-methoxycarbonyl-2-oxo-1H-thieno[2,3-b][1,4]thiazine (31.9 g) in tetrahydrofuran (300 ml) was added dropwise boran-tetrahydrofuran complex (1.0 M solution in tetrahydrofuran) (294 ml). After stirring for 3 hours at room temperature, the solvent was evaporated in vacuo and the residue was poured into water. The solution was adjusted to pH 8 with 20% aqueous potassium carbonate and extracted with ethyl acetate. The extract was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with toluene. The fractions containing the object compound were collected and evaporated in vacuo to give 1-n-butyl-2,3-dihydro-6-methoxycarbonyl-1H-thieno-[2,3-b][1,4]thiazine (30.85 g).

reactant | 1-n-butyl-2,3-dihydro-6-methoxycarbonyl-2-oxo-1H-thieno[2,3-b][1,4]thiazine | 31.9 g | C(CCC)N1C2=C(SCC1=O)SC(=C2)C(=O)OC | C12H15NO3S2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 M, 294 ml | O1CCCC1 | C4H8O
product | 1-n-butyl-2,3-dihydro-6-methoxycarbonyl-1H-thieno-[2,3-b][1,4]thiazine | 30.85 g | C(CCC)N1C2=C(SCC1)SC(=C2)C(=O)OC | C12H17NO2S2
